US04335054
The amounts of palladium acetate shown in Table 2 below, 6.74 g (40 millimols) of 4-formylbenzoyl chloride, 2.63 ml (40 millimols) of acrylonitrile and 5.12 ml (40 millimols) of N-ethylmorpholine, in 80 ml of p-xylene, are stirred for 5 hours at 120° C. The yields of 4-formylcinnamonitrile are shown in Table 2.

reactant | 4-formylbenzoyl chloride | 40 millimols, 6.74 g | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
reactant | acrylonitrile | 40 millimols, 2.63 ml | C(C=C)#N | C3H3N
reactant | N-ethylmorpholine | 40 millimols, 5.12 ml | C(C)N1CCOCC1 | C6H13NO
solvent | p-xylene | 80 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-formylcinnamonitrile | C(=O)C1=CC=C(C=CC#N)C=C1 | C10H7NO
